US04937343
Preparation of N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-2-aminobenzenesulphonamide
0.06 mol of N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2nitrobenzenesulphonamide is dissolved in 500 ml of MeOH, 2.4 g of 5% Pd-C are added, the mixture is heated to boiling and 0.17 mol of hydrazine hydrate in 50 ml of MeOH is added dropwise within 15 minutes. After boiling for a further 30 minutes, the mixture is filtered, the filtrate is evaporated, the residue is taken up in diethyl ether, washed with water, evaporated again and crystallised from isorpopanol-isopropyl ether.

reactant | N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2nitrobenzenesulphonamide | 0.06 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C18H24N6O4S
reactant | hydrazine hydrate | 0.17 mol | O.NN
solvent | MeOH | 500 ml | CO | CH4O
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd-C | 2.4 g | [Pd] | Pd
product | N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-2-aminobenzenesulphonamide | N1=C(N=CC=C1)N1CCN(CC1)CCCCNS(=O)(=O)C1=C(C=CC=C1)N | C18H26N6O2S
